US09371320B2
B) 4-((7-oxo-3-phenyl-6,7-dihydro-1H-pyrazolo[3,4-c]pyridin-1-yl)methyl)benzenesulfonamide
To a solution of 4-((7-methoxy-3-phenyl-1H-pyrazolo[3,4-c]pyridin-1-yl)methyl)benzenesulfonamide (155 mg) in acetonitrile (30 mL) were added sodium iodide (118 mg) and chloro(trimethyl)silane (342 mg), and the mixture was stirred at 60° C. for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methanol/ethyl acetate). To the obtained residue was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was crystallized from ethyl acetate and hexane to give the title compound (147 mg).

reactant | 4-((7-methoxy-3-phenyl-1H-pyrazolo[3,4-c]pyridin-1-yl)methyl)benzenesulfonamide | 155 mg | COC=1N=CC=C2C1N(N=C2C2=CC=CC=C2)CC2=CC=C(C=C2)S(=O)(=O)N | C20H18N4O3S
reactant | sodium iodide | 118 mg | [I-].[Na+]
reactant | chloro(trimethyl)silane | 342 mg | Cl[Si](C)(C)C | C3H9ClSi
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 4-((7-oxo-3-phenyl-6,7-dihydro-1H-pyrazolo[3,4-c]pyridin-1-yl)methyl)benzenesulfonamide | 147 mg | O=C1NC=CC2=C1N(N=C2C2=CC=CC=C2)CC2=CC=C(C=C2)S(=O)(=O)N | C19H16N4O3S
